US08133995B2
A 3 L round bottomed flask was charged with ethyl 3-(dimethylamino)-2-(4-nitrobenzoyl)acrylate (63.59 g, 217.5 mmol) and 2-aminomalonamide (33.12 g, 282.8 mmol) and AcOH (800 mL). The reaction mixture was heated to 80° C. over night. The starting material appeared consumed by TLC. The AcOH was removed under reduced pressure and TFA (400 mL) was added. The mixture was heated over night at 60° C. The reaction was cooled to room temperature and the TFA was removed under reduced pressure. The orange oil was washed with saturated aqueous NaHCO3 (1 L) and solid NaHCO3 was added until the solution was neutral. The solids were filtered and placed in a 1 L erlenmeyer flask. The solids were washed with H2O (3×1 L) and the water was decanted off through the filter. On the last washing the solids were poured onto the filter and allowed to air dry. The solids were once again removed from the filter and washed with Et2O (4×500 mL). The Et2O was decanted off through the filter and on the final washing the solids were transferred to the filter. An addition portion of Et2O (200 mL) was used to wash the flask and the filter cake. The product was dried in a vacuum oven at 40° C. over P2O5 for 4 h affording ethyl 5-(aminocarbonyl)-4-(4-nitrophenyl)-1H-pyrrole-3-carboxylate as a tan solid (55.2 g, 182 mmol, 83.7%). 1H-NMR (DMSO-d6) δ 12.33 (br s, 1H), 8.19-8.15 (m, 2H), 7.57 (d, J=3.6 Hz, 1H), 7.53-7.49 (m, 2H), 7.29 (br s, 1H), 6.41 (br s, 1H), 3.99 (q, J=7.2 Hz, 2H), 1.03 (t, J=7.2 Hz, 3H); LCMS RT=2.79 min; MS {M+H]+=304.2.

reactant | ethyl 3-(dimethylamino)-2-(4-nitrobenzoyl)acrylate | 217.5 mmol, 63.59 g | CN(C=C(C(=O)OCC)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C14H16N2O5
reactant | 2-aminomalonamide | 282.8 mmol, 33.12 g | NC(C(=O)N)C(=O)N | C3H7N3O2
solvent | AcOH | 800 mL | CC(=O)O | C2H4O2
product | ethyl 5-(aminocarbonyl)-4-(4-nitrophenyl)-1H-pyrrole-3-carboxylate | 182 mmol, 55.2 g, 83.7% | NC(=O)C1=C(C(=CN1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C14H13N3O5
